US04076709
1.9 G. of 3-carbomethoxy-4-hydroxy-2-methyl-2H-thieno[2,3-e]-1,2-thiazine 1,1-dioxide are suspended together with 0.9 g. of 2-aminothiazole in 250 ml. of absolute xylene and heated to reflux for 7 hours, by which means 150 ml. of xylene are slowly distilled off. The residual xylene is then evaporated in vacuo. The crystalline residue is recrystallized from ethanol. There is obtained 4-hydroxy-2-methyl-N-(2-thiazolyl)-2H-thieno[2,3-e]-1,2-thiazine-3-carboxamide1,1-dioxide of melting point 217° C. (decomposition).

reactant | 3-carbomethoxy-4-hydroxy-2-methyl-2H-thieno[2,3-e]-1,2-thiazine 1,1-dioxide | C(=O)(OC)C=1N(S(C2=C(C1O)SC=C2)(=O)=O)C | C9H9NO5S2
reactant | 2-aminothiazole | NC=1SC=CN1 | C3H4N2S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-hydroxy-2-methyl-N-(2-thiazolyl)-2H-thieno[2,3-e]-1,2-thiazine-3-carboxamide1,1-dioxide | OC1=C(N(S(C2=C1SC=C2)(=O)=O)C)C(=O)NC=2SC=CN2 | C11H9N3O4S3
